US09108926B2
1-[(Methylsulfonyl)methyl]-3-nitrobenzene
3-Chlorobenzenecarboperoxoic acid (77%; 26.9 g; 120 mmol) was added to a stirred solution of 1-[(methylsulfanyl)methyl]-3-nitrobenzene (10.0 g) in DCM (1305 mL) at 0° C. The batch was stirred at 0° C. for 30 minutes and then 2.5 hours at room temperature. The batch was diluted with water (300 mL) before sodium bicarbonate (11.0 g) was added. The batch was extracted with DCM (2×). The combined organic phases were filtered using a Whatman filter and concentrated. The residue was purified by chromatography (DCM/ethanol 95:5) and finally recrystallized from ethyl acetate to give the desired product (6.2 g; 28.9 mmol).

reactant | 3-Chlorobenzenecarboperoxoic acid | 120 mmol, 26.9 g | ClC=1C=C(C=CC1)C(=O)OO | C7H5ClO3
reactant | 1-[(methylsulfanyl)methyl]-3-nitrobenzene | 10.0 g | CSCC1=CC(=CC=C1)[N+](=O)[O-] | C8H9NO2S
reactant | sodium bicarbonate | 11.0 g | C([O-])(O)=O.[Na+]
reactant | water | 300 mL | O | H2O
solvent | DCM | 1305 mL | C(Cl)Cl | CH2Cl2
product | 1-[(Methylsulfonyl)methyl]-3-nitrobenzene | 28.9 mmol, 6.2 g | CS(=O)(=O)CC1=CC(=CC=C1)[N+](=O)[O-] | C8H9NO4S
